US07144909B2
3,5-Dibromo-4-(2-phenyl-5-benzofuranyloxy)phenylacetic Acid
Methyl[3,5-dibromo-4-(2-phenyl-5-benzofuranyloxy)phenyl]acetate (200 mg) was diluted in ethanol (2 mL) and treated with an aqueous saturated solution of potassium hydroxide (0.5 mL). The reaction mixture was refluxed for 1.5 hours. The reaction mixture was concentrated, diluted with chloroform and washed with an aqueous solution of hydrochloric acid (1 N). The organic phase was dried over magnesium sulphate, filtered and concentrated. This gave 0.13 g (70%) of 3,5-dibromo-4-(2-phenyl-5-benzofuranyloxy)-phenylacetic acid as a beige solid mass. 1H-NMR (300 MHz, DMSO-d6): δ 12.5 (br s, 1H), 7.86 (d, J=7.2 Hz, 2H), 7.34 (s, 2H), 7.61 (d, J=8.4 Hz, 1H), 7.50 (t, J=5.1 Hz, 3H), 7.42 (d, J=7.1, 1H), 7.35 (s, 1H), 6.87 (s, 1H), 3.70 (s, 2H).

reactant | Methyl[3,5-dibromo-4-(2-phenyl-5-benzofuranyloxy)phenyl]acetate | 200 mg | COC(CC1=CC(=C(C(=C1)Br)OC=1C=CC2=C(C=C(O2)C2=CC=CC=C2)C1)Br)=O | C23H16Br2O4
reactant | potassium hydroxide | 0.5 mL | [OH-].[K+]
solvent | ethanol | 2 mL | C(C)O | C2H6O
product | 3,5-Dibromo-4-(2-phenyl-5-benzofuranyloxy)phenylacetic Acid | BrC=1C=C(C=C(C1OC=1C=CC2=C(C=C(O2)C2=CC=CC=C2)C1)Br)CC(=O)O | C22H14Br2O4
